US07345180B2
7-Methoxy-2,5-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid
The ethyl 7-hydroxy-2,5-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylate (235 mg) obtained above was suspended in acetone (5 ml), and potassium carbonate (138 mg) was added thereto and stirred for 30 minutes at room temperature. Methyl iodide (1.0 ml) was added to the mixture which was then refluxed for 2 hours. The reaction mixture was cooled to room temperature, then water was added to the reaction mixture which was extracted with chloroform, and the organic phase was washed with a saturated saline solution and dried over sodium sulfate anhydrous. The resulting product was concentrated under reduced pressure, and the resulting crystals were dissolved in ethanol (5 ml). 5 N Sodium hydroxide solution (1 ml) was added thereto and stirred for 1 hour at 50° C. The reaction mixture was cooled to room temperature, and water was added to the mixture which was then washed with ethyl acetate. 2 N Hydrochloric acid was added to the aqueous phase until it became acidic, and precipitated crystals were collected by filtration and washed with water and n-hexane. The crystals were dried under reduced pressure to give the title compound (162 mg, Y.:73%) as white crystals.

reactant | ethyl 7-hydroxy-2,5-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylate | 235 mg | OC1=C(C(=NC=2N1N=C(C2)C)C)C(=O)OCC | C11H13N3O3
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 1.0 ml | CI | CH3I
reactant | water | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 7-Methoxy-2,5-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 162 mg, 73% | COC1=C(C(=NC=2N1N=C(C2)C)C)C(=O)O | C10H11N3O3
